US07524862B2
1i. 2-bromo-6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methylquinoline
478 mg (1.48 mmol) of tetrabutylammonium bromide and 493 mg (3.37 mmol) of phosphorus pentoxide are added to a suspension of 500 mg (1.21 mmol) of 6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methyl-1H-quinolin-2-one in 10 mL of toluene and the reaction mixture is heated to 95° C. for 1.5 hours. After cooling, the organic phase is decanted off, the residue is treated twice with toluene in the ultrasound bath, and the combined organic phases are washed with semisaturated sodium bicarbonate solution and water and dried over magnesium sulfate. After the desiccant and solvent have been eliminated, the residue is dried and reacted further without purification. Yield: 120 mg (18% of theoretical); C23H14BrClN2 (M=433.730); calc.: molpeak (M+H)+: 433/435/437 (BrCl); found: molpeak (M+H)+: 433/435/437 (BrCl).

reactant | phosphorus pentoxide | 3.37 mmol, 493 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methyl-1H-quinolin-2-one | 1.21 mmol, 500 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2C(=CC(NC2=CC1)=O)C | C23H15ClN2O
reactant | BrCl | BrCl | BrCl
catalyst | tetrabutylammonium bromide | 1.48 mmol, 478 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methylquinoline | BrC1=NC2=CC=C(C=C2C(=C1)C)C#CC1=NC=C(C=C1)C1=CC=C(C=C1)Cl | C23H14BrClN2
